US04298739
2.6 Grams of 5-(3-carboxy-2-methylpropoxy)-3,4-dihydrocarbostyril and 1.6 ml of triethylamine are added to 200 ml of ethyl acetate, followed by dropwise addition of 1.0 ml of ethyl chloroformate under external ice cooling and agitation while maintaining the internal temperature at 10° to 20° C. Thereafter, the mixture is agitated at room temperature for 1 hour, added with 1.4 g of N-ethylcyclohexylamine and further agitated for 1.5 hours. The reaction solution is poured into water to separate the liquid, and the organic layer is washed with dilute aqueous NaOH solution, diluted hydrochloric acid and water in that order and then dried with anhydrous Na2SO4. After filtering off the inorganic matter, the mother liquor is concentrated and the residue is recrystallized from ligroin-benzene, obtaining 1.5 g of 5-[3-(N-cyclohexyl-N-ethylaminocarbonyl)-2-methylpropoxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with melting point of 114°-115.5° C.

reactant | 5-(3-carboxy-2-methylpropoxy)-3,4-dihydrocarbostyril | C(=O)(O)CC(COC1=C2CCC(NC2=CC=C1)=O)C | C14H17NO4
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.0 ml | ClC(=O)OCC | C3H5ClO2
reactant | N-ethylcyclohexylamine | 1.4 g | C(C)NC1CCCCC1 | C8H17N
solvent | water | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-[3-(N-cyclohexyl-N-ethylaminocarbonyl)-2-methylpropoxy]-3,4-dihydrocarbostyril | 1.5 g | C1(CCCCC1)N(C(=O)CC(COC1=C2CCC(NC2=CC=C1)=O)C)CC | C22H32N2O3
